US06936612B2
A suspension of 6-bromo-8-cyclopentyl-2-methanesulfinyl-5-methyl-8H-pyrido[2,3-d]pyrimidin-7-one (1.00 g, 2.70 mmol) and 4-methoxybenzylamine (0.39 mL, 4.0 mmol) in toluene (15 mL) was heated under reflux for 2 hours. The solution was cooled, and the resulting solid was collected by filtration to give 6-bromo-8-cyclopentyl-2-(4-methoxy-benzylamino)-5-methyl-8H-pyrido[2,3-d]pyrimidin-7-one (1.04 g, 86.4%). 1H NMR 68 (400 MHz, CDCl3) 1.6 (m, 2H), 1.8 (m, 2H), 2.0 (m, 2H), 2.2 (m, 2H), 2.53 (s, 3H), 3.79 (s, 3H), 4.59 (m, 2H), 5.96 (m, 1H), 6.1 (m, 1H), 6.86 (d, J=8.3 Hz, 2H), 7.27 (d, J=8.1 Hz, 2H), 8.5 (br s, 1H). MS (APCI) (C21H23Br1N4O2): Calc for M+H, 443.1; Found, 443.1.

reactant | 6-bromo-8-cyclopentyl-2-methanesulfinyl-5-methyl-8H-pyrido[2,3-d]pyrimidin-7-one | 2.70 mmol, 1.00 g | BrC1=C(C2=C(N=C(N=C2)S(=O)C)N(C1=O)C1CCCC1)C | C14H16BrN3O2S
reactant | 4-methoxybenzylamine | 4.0 mmol, 0.39 mL | COC1=CC=C(CN)C=C1 | C8H11NO
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 6-bromo-8-cyclopentyl-2-(4-methoxy-benzylamino)-5-methyl-8H-pyrido[2,3-d]pyrimidin-7-one | 1.04 g, 86.4% | BrC1=C(C2=C(N=C(N=C2)NCC2=CC=C(C=C2)OC)N(C1=O)C1CCCC1)C | C21H23BrN4O2
